US06361887B1
Synthesis of synthesis of di-(2-(6-hydroxynaphthyl)anthracene (Compound 9)
Starting material (35.0 g, 71.4 mmol), pyridine hydrochloride (72.0 g, 682 mmol), and 105 mL of phenyl ether-biphenyl eutectic were placed under nitrogen in a round bottomed flask equipped with a condenser. The reaction was refluxed for 2 days and then cooled slightly. Hexane was added to prevent the mixture from solidifying and the mixture was stirred for 30 minutes. The solid was collected by vacuum filtration. The solid product was added to an Erlenmeyer with ethanol and heated at 70° C. for 2 hours. After cooling, the solid was collected by filtration and dried in an oven to give pure product 28.5 g (86% yield). The product was sublimed prior to polymerization. Elemental analysis: calcd. for C34H22O2: C 88.30%, H, 4.80%; found: C 88.02%, H 4.91%.

reactant | pyridine hydrochloride | 682 mmol, 72.0 g | Cl.N1=CC=CC=C1
reactant | phenyl ether-biphenyl eutectic | 105 mL | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
reactant | Hexane | CCCCCC | C6H14
product | 2-(6-hydroxynaphthyl)anthracene | 28.5 g, 86% yield | OC=1C=C2C=CC=C(C2=CC1)C1=CC2=CC3=CC=CC=C3C=C2C=C1 | C24H16O
